US07351508B2
1,6-Di(10H-10-phenothiazinyl)hexane.
A mixture of phenothiazine (0.15 mol), 0.1 mol of 1,6-dibromohexane, 0.15 mol of potassium hydroxide and 1% w/w of tetra-n-butyl ammonium hydrogen sulfate in 300 ml of dry toluene was stirred and refluxed for 48 hours. The reaction mixture was cooled to room temperature, filtered, and washed thoroughly with water. The organic phase was dried over anhydrous sodium sulfate, and the solvent was removed by evaporation. The crude product was purified by column chromatography using a mixture of ethyl acetate and hexane in a volume ratio of 1:6 as eluent. The yield of 1,6-di(10H-10-phenothiazinyl)hexane was 85%. The 1H-NMR spectrum of the product in CDCl3 was characterized by the following chemical shifts (δ, ppm): 1.35-1.50(m, 4H), 1.55-1.90(m, 4H), 3.82(t, 4H), and 6.73-7.19(m, 16H).

reactant | phenothiazine | 0.15 mol | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | 1,6-dibromohexane | 0.1 mol | BrCCCCCCBr | C6H12Br2
reactant | potassium hydroxide | 0.15 mol | [OH-].[K+]
catalyst | tetra-n-butyl ammonium hydrogen sulfate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1,6-Di(10H-10-phenothiazinyl)hexane | C1=CC=CC=2SC3=CC=CC=C3N(C12)CCCCCCN1C2=CC=CC=C2SC=2C=CC=CC12 | C30H28N2S2
